US05034404
To a mixture of 5.0g of S-methyl-N-nitroisothiourea and 25ml of pyridine was dropwise added 11.3g of acetic anhydride at room temperature, taking for 10 minutes, followed by stirring for 5 hours at the same temperature. The reaction mixture was concentrated, and the residue was poured into 50ml of 2N-hydrochloric acid. The resulting solid was collected by filtration and dried to obtain 5.lg of N-acetyl-S-methyl-N'-nitroisothiourea. mp. 109-110° C.

reactant | S-methyl-N-nitroisothiourea | 5.0g | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
reactant | acetic anhydride | 11.3g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 25ml | N1=CC=CC=C1 | C5H5N
product | N-acetyl-S-methyl-N'-nitroisothiourea | C(C)(=O)NC(SC)=N[N+](=O)[O-] | C4H7N3O3S
